US04098791
In the manner given in Example 1, hexahydroazepine is treated with cyanogen bromide and aqueous sodium hydroxide to give 1-hexahydroazepinecarbonitrile.

reactant | hexahydroazepine | N1CCCCCC1 | C6H13N
reactant | cyanogen bromide | N#CBr | CBrN
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-hexahydroazepinecarbonitrile | N1(CCCCCC1)C#N | C7H12N2
